US05304470
In a batch procedure (300 l), Mal-Tyr-OEt (0.25M) and Arg-OEt (0.25M) are reacted with α-chymotrypsin (0.025 mg/ml) at pH 9.5 and 25° C. After 2 hours, filtration of the precipitate and washing with water result in 26.0 kg of Mal-Tyr-Arg-OEt (75% of theoretical yield) with an HPLC purity greater than 97%.

reactant | Tyr-OEt | 0.25M | N[C@@H](CC1=CC=C(C=C1)O)C(=O)OCC | C11H15NO3
reactant | Arg-OEt | 0.25M | N[C@@H](CCCNC(N)=N)C(=O)OCC | C8H18N4O2
product | Tyr-Arg-OEt | 75% | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)OCC | C17H27N5O4
